US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 1-decanoyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine (371 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=19:1) to provide 1-decanoyl-4-(2,5-difluoro-4-hydroxyphenyl)piperazine (268 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 1-decanoyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 371 mg | C(CCCCCCCCC)(=O)N1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C21H32F2N2O2
product | 1-decanoyl-4-(2,5-difluoro-4-hydroxyphenyl)piperazine | 268 mg | C(CCCCCCCCC)(=O)N1CCN(CC1)C1=C(C=C(C(=C1)F)O)F | C20H30F2N2O2
